US04775674
5-[(2,3-Dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]pentanoic Acid
This compound was prepared from 5-[[4-nitro-3-[(2,4-dioxoimidazolidin-5-ylidene)methyl]pentyl]oxy]pentanoic acid or ethyl 5-[3-[(2,4-dioxoimidazolidin-5-ylidene)methyl]-4-nitrophenoxy]pentanoate analogous to Example 4, m.p. 317°-318° C.

reactant | 5-[[4-nitro-3-[(2,4-dioxoimidazolidin-5-ylidene)methyl]pentyl]oxy]pentanoic acid | [N+](=O)([O-])C(C(CCOCCCCC(=O)O)C=C1C(NC(N1)=O)=O)C | C14H21N3O7
reactant | ethyl 5-[3-[(2,4-dioxoimidazolidin-5-ylidene)methyl]-4-nitrophenoxy]pentanoate | O=C1NC(C(N1)=O)=CC=1C=C(OCCCCC(=O)OCC)C=CC1[N+](=O)[O-] | C17H19N3O7
product | 5-[(2,3-Dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]pentanoic Acid | O=C1NC=2C(=NC=3C=CC(=CC3C2)OCCCCC(=O)O)N1 | C15H15N3O4
